US04959503
(E)-4-[[4-(4-hydroxy-3,5-dimethylphenyl)-2-oxo-3butenyl]-oxy]-benzene acetic acid, Method C
Methyl (E)-4-[[4-(4-hydroxy-3,5-dimethylphenyl)2-oxo-3-butenyl]oxy]-benzene acetate (1.73 g) (0.00488 mole) is dissolved in 150 ml 0.1N NaOH and warmed on the steam bath. As soon as a temperature of 70° is reached the reaction mixture is removed from the bath and allowed to cool to 50°, at which point 1N HCl (17 ml) is added slowly. The precipitated solid is filtered off, washed with H2O, and recrystallized from HOAc-H2O to yield yellow crystals, 1.22 g (73%), mp 151°-153.5° C. Anal. for C20H20O5 : Calc. C 70.58, H 5.92; Fd. C 70.48, H 5.72.

reactant | Methyl (E)-4-[[4-(4-hydroxy-3,5-dimethylphenyl)2-oxo-3-butenyl]oxy]-benzene acetate | 0.00488 mole, 1.73 g | OC1=C(C=C(C=C1C)/C=C/C(COC1=CC=C(C=C1)CC(=O)OC)=O)C | C21H22O5
solvent | NaOH | 0.1N, 150 ml | [OH-].[Na+]
product | (E)-4-[[4-(4-hydroxy-3,5-dimethylphenyl)-2-oxo-3butenyl]-oxy]-benzene acetic acid | OC1=C(C=C(C=C1C)/C=C/C(COC1=CC=C(C=C1)CC(=O)O)=O)C | C20H20O5
